US06369146B1
Diisobutyl-DL-malate was prepared by esterification of DL-malic acid with isobutyl alcohol. To a three-neck 1 L round-bottomed flask equipped with a reflux condenser, Dean-Stark trap, septum, thermocouple and mechanical stirrer, were added DL-malic acid (75.91 g), 2-methyl-1-propanol (210 mL) and Amberlyst® 15 ion exchange resin (10 g). The mixture was placed under nitrogen and heated to reflux. At 106° C., two phases started to collect in the Dean-Stark trap. The reaction temperature was maintained at 108° C. for 2 hr 15 min and the water was continuously removed via the Dean-Stark trap. As collection in the Dean-Stark trap slowed, the reaction temperature was increased to 115° C. and fresh alcohol (50 mL) was added to the reaction. The reaction was heated to 120° C. and more alcohol (50 mL) was added. At this point, no more water collected in the Dean-Stark trap. The product was separated from the catalyst via filtration. The crude yellow liquid was purified via vacuum distillation. Diisobutyl-DL-malate was obtained as a low viscosity, clear, colorless liquid with a slight pleasant odor (120.4 g, 86.3% yield).

reactant | DL-malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | DL-malic acid | 75.91 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 2-methyl-1-propanol | 210 mL | CC(CO)C | C4H10O
reactant | isobutyl alcohol | C(C(C)C)O | C4H10O
product | Diisobutyl-DL-malate | C(C(C)C)OC(C(O)CC(=O)OCC(C)C)=O | C12H22O5
